US07888364B2
500 mg of methyl 4-(bromomethyl)benzoate was reacted with 4-methyl-4H-1,2,4-triazole-3-thiol via Procedure Q. 804 mg of methyl 4-((4-methyl-4H-1,2,4-triazol-3-ylthio)methyl)benzoate was subsequently reacted via Procedure R to give an approximate 1:9 mixture of methyl 4-((4-methyl-4H-1,2,4-triazol-3-ylsulfinyl)methyl)benzoate and methyl 4-((4-methyl-4H-1,2,4-triazol-3-ylsulfonyl)methyl)benzoate. The mixture of 740 mg was hydrolyzed via Procedure M to give 4-((4-methyl-4H-1,2,4-triazol-3-ylsulfinyl)methyl)benzoic acid and 4-((4-methyl-4H-1,2,4-triazol-3-ylsulfonyl)methyl)benzoic acid. 114 mg of the mixture of 4-((4-methyl-4H-1,2,4-triazol-3-ylsulfinyl)methyl)benzoic acid and 4-((4-methyl-4H-1,2,4-triazol-3-ylsulfonyl)methyl)benzoic acid was coupled to 75 mg of 4-chloro-3-(pyridin-2-yl)aniline via Procedure G. The mixture was seperated on reverse phase HPLC to give N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((4-methyl-4H-1,2,4-triazol-3-ylsulfinyl)methyl)benzamide. MS (Q1) 452.3 (M)+.

reactant | 4-((4-methyl-4H-1,2,4-triazol-3-ylsulfinyl)methyl)benzoic acid | CN1C(=NN=C1)S(=O)CC1=CC=C(C(=O)O)C=C1 | C11H11N3O3S
reactant | 4-((4-methyl-4H-1,2,4-triazol-3-ylsulfonyl)methyl)benzoic acid | CN1C(=NN=C1)S(=O)(=O)CC1=CC=C(C(=O)O)C=C1 | C11H11N3O4S
reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((4-methyl-4H-1,2,4-triazol-3-ylsulfinyl)methyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CS(=O)C1=NN=CN1C)=O)C1=NC=CC=C1 | C22H18ClN5O2S
